US07514578B2
Preparation of methyl 2-benzoylamino-3-(4-fluorophenylamino)acrylate
10g (39.5 mmol) of methyl 2-benzoylamino-3-dimethylaminoacrylate and 11.4 ml (118 mmol) of 4-fluoroaniline were dissolved in 200 ml of isopropanol at 40° C. The solution was admixed with 3.6 ml (43.5 mmol) of concentrated hydrochloric acid within 5 minutes (min) and stirred for a further 30 min. The suspension was cooled to 10° C. and the crystallized product was filtered off. Yield: 12.4 g (94% of theory) 1H NMR: 3.62 (s, 3H); 7.05-7.24 (m, 4H); 7.48-7.52 (m, 3H); 7.88 (d, 1H); 8.00-8.04 (m, 2H); 8.90 (d, 1H); 9.15 (s, 1H)

reactant | methyl 2-benzoylamino-3-dimethylaminoacrylate | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)=CN(C)C | C13H16N2O3
reactant | 4-fluoroaniline | 118 mmol, 11.4 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | hydrochloric acid | 43.5 mmol, 3.6 ml | Cl | ClH
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | methyl 2-benzoylamino-3-(4-fluorophenylamino)acrylate | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)=CNC1=CC=C(C=C1)F | C17H15FN2O3
